US07459567B2
[4-(2-Chlorophenyl)-2-(4-{[(1-ethylpropyl)amino]carbonyl}phenyl)thien-3-yl]acetic acid (0.125 g, 0.282 mmol) was dissolved in CH2Cl2 (2 mL) and carbonyldiimidizole (0.229 g, 1.41 mmol) was added. The solution was stirred under argon at room temperature for 30 min. 1-H-Pyrazole-1-carboxamidine hydrochloride (0.413 g, 2.82 mmol) and diisopropyl ethylamine (0.737 mL, 4.23 mmol) were added to the solution and stirred overnight. The solvent was removed and the mixture was absorbed onto silica gel and purified by flash chromatography (20:1 CHCl3:MeOH) to yield 4-(4-(2-chloro-phenyl)-3-{[(imino-pyrazol-1-yl-methyl)-carbamoyl]-methyl}-thiophen-2-yl)-N-(1-ethyl-propyl)-benzamide (0.087 g) as a white solid.

reactant | [4-(2-Chlorophenyl)-2-(4-{[(1-ethylpropyl)amino]carbonyl}phenyl)thien-3-yl]acetic acid | 0.282 mmol, 0.125 g | ClC1=C(C=CC=C1)C=1C(=C(SC1)C1=CC=C(C=C1)C(=O)NC(CC)CC)CC(=O)O | C24H24ClNO3S
reactant | 1-H-Pyrazole-1-carboxamidine hydrochloride | 2.82 mmol, 0.413 g | Cl.N1(N=CC=C1)C(=N)N
reactant | diisopropyl ethylamine | 4.23 mmol, 0.737 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-(2-chloro-phenyl)-3-{[(imino-pyrazol-1-yl-methyl)-carbamoyl]-methyl}-thiophen-2-yl)-N-(1-ethyl-propyl)-benzamide | 0.087 g | ClC1=C(C=CC=C1)C=1C(=C(SC1)C1=CC=C(C(=O)NC(CC)CC)C=C1)CC(NC(N1N=CC=C1)=N)=O | C28H28ClN5O2S
